US06869952B2
A mixture of 1-(2-fluoro-3-methoxy-6-nitrophenyl)-propan-2-one from previous step (454 mg, 21 mmol) and pyridinium chloride (0.9 g, 7.8 mmol) was stirred at 180° C. for 75 min. The reaction was cooled to room temperature, diluted with 1N HCl (3 mL) and ethyl acetate (10 mL) and filtered. The filtrate was washed with brine (2×), dried and concentrated in vacuo to give 1-(2-fluoro-3-hydroxy-6-nitrophenyl)-propan-2-one (410 mg, 96%) as a grey solid, which was used without further purification for the next step. LC/MS; (M+H)+=214. 1HNMR (CDCl3): δ 2.37 (s, 3H), 4.22 (s, 2H), 6.95 (dd, 1H), 7.95 (d, 1H, J=9.35 Hz).

reactant | 1-(2-fluoro-3-methoxy-6-nitrophenyl)-propan-2-one | FC1=C(C(=CC=C1OC)[N+](=O)[O-])CC(C)=O | C10H10FNO4
reactant | pyridinium chloride | 7.8 mmol, 0.9 g | [Cl-].[NH+]1=CC=CC=C1
solvent | HCl | 1N, 3 mL | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-fluoro-3-hydroxy-6-nitrophenyl)-propan-2-one | 410 mg, 96% | FC1=C(C(=CC=C1O)[N+](=O)[O-])CC(C)=O | C9H8FNO4
